US04058550
A solution of 8.05 g. of 4-(n-nonadecylamino)benzoic acid in 25 ml. of hexamethylphosphoramide is treated with sodium hydride and then 1-chloro-2,3-propanediol in the manner described in Example 2 to yield 2,3-dihydroxypropyl 4-(n-nonadecylamino)benzoate as a white solid.

reactant | 4-(n-nonadecylamino)benzoic acid | C(CCCCCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C26H45NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-2,3-propanediol | ClCC(CO)O | C3H7ClO2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2,3-dihydroxypropyl 4-(n-nonadecylamino)benzoate | C(CCCCCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C29H51NO4
